US08461185B2
Step A: Methyl 3-(5-methylpyridin-2-yl)-5-(1,3-oxazol-2-yl)benzoate
To a degassed solution of methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate (1.0 g, 3.27 mmol) in 1,4-dioxane (20 mL) was added cesium fluoride (1.49 g, 9.80 mmol), 2-(tributylstannyl)-1,3-oxazole (2.34 g, 6.53 mmol) and Bis(tri-t-butylphosphine) palladium (83 mg, 0.163 mmol). The mixture was heated to 90° C. under nitrogen for 16 h, after which the reaction was cooled to 20° C. Ethyl acetate (200 mL) and saturated sodium bicarbonate solution (200 mL) were added. The organic layer was isolated and the aqueous layer was extracted with ethyl acetate (2×). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was run through silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) to give the title compound (1 g). MS 295.1 (M+1).

reactant | methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate | 3.27 mmol, 1.0 g | BrC=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C14H12BrNO2
reactant | cesium fluoride | 9.80 mmol, 1.49 g | [F-].[Cs+]
reactant | 2-(tributylstannyl)-1,3-oxazole | 6.53 mmol, 2.34 g | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Bis(tri-t-butylphosphine) palladium | 0.163 mmol, 83 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(5-methylpyridin-2-yl)-5-(1,3-oxazol-2-yl)benzoate | 1 g | CC=1C=CC(=NC1)C=1C=C(C(=O)OC)C=C(C1)C=1OC=CN1 | C17H14N2O3
